US08039463B2
NaOH (34 mg, 8.5 mmol) was added to a solution of N-[5-(4-fluoro-phenyl)-isoxazol-3-yl]-malonamic acid ethyl ester (292 mg, 1.0 mmol) in the mixture of THF (13 mL) and H2O (13 mL) and stirred for 1 hr at room temperature. The reaction mixture was concentrated and the obtained residue was diluted with water, acidified with concentrated HCl, and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over Na2SO4 and concentrated to afford 40 mg (90.9% Yield) of N-[5-(4-fluoro-phenyl)-isoxazol-3-yl]-malonamic acid.

reactant | NaOH | 8.5 mmol, 34 mg | [OH-].[Na+]
reactant | N-[5-(4-fluoro-phenyl)-isoxazol-3-yl]-malonamic acid ethyl ester | 1.0 mmol, 292 mg | C(C)OC(CC(=O)NC1=NOC(=C1)C1=CC=C(C=C1)F)=O | C14H13FN2O4
reactant | THF | 13 mL | C1CCOC1 | C4H8O
solvent | H2O | 13 mL | O | H2O
product | N-[5-(4-fluoro-phenyl)-isoxazol-3-yl]-malonamic acid | 40 mg, 90.9% Yield | FC1=CC=C(C=C1)C1=CC(=NO1)NC(CC(=O)O)=O | C12H9FN2O4
